US07943609B2
(11S)-11-Methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (1.13 g, 4.45 mmol) was dissolved in 20 mL of trifluoroacetic acid and the solution was placed in a pressure bottle. Platinum oxide (1.34 g) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 2 days, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with 1,2-dichloroethane and the combined filtrates were concentrated under reduced pressure to give a peach colored oil. The oil was partitioned between dilute NH4OH solution and CH2Cl2. The layers were separated and the organic portion was washed successively with dilute NH4OH solution and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure to give a white foam. Chromatography (SiO2, 10-30% CMA/CHCl3) gave (11S)-11-methyl-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (0.57 g) as a white solid, mp 209-211° C.

reactant | (11S)-11-Methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 4.45 mmol, 1.13 g | C[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C14H14N4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum oxide | 1.34 g | [Pt]=O
product | (11S)-11-methyl-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.57 g | C[C@H]1COCC=2N1C1=C(C(=NC=3CCCCC13)N)N2 | C14H18N4O
